US08048899B2
To a solution of 0.21 g (0.36 mmol) of N-{3-[2-(tert-butyl-diphenyl-silanyloxy)-1,1-dimethyl-ethyl]-isoxazol-5-yl}-2-(4-hydroxy-cyclohexylmethanesulfonyl)-2-methyl-propionamide in DCM (3 mL) is added pyridinium chlorochromate (0.15 g, 0.72 mmol) and the reaction mixture is stirred at room temperature for 18 h. The reaction is diluted with diethyl ether (6 mL) and stirred for 10 min. The mixture is filtered through a plug of silica and the filtrate is concentrated to afford 0.12 g of N-{3-[2-(tert-butyl-diphenyl-silanyloxy)-1,1-dimethyl-ethyl]-isoxazol-5-yl}-2-methyl-2-(4-oxo-cyclohexylmethanesulfonyl)-propionamide, which is used without further purification in the next step. Yield: 54%, ES-MS: 637 [M−H]

reactant | N-{3-[2-(tert-butyl-diphenyl-silanyloxy)-1,1-dimethyl-ethyl]-isoxazol-5-yl}-2-(4-hydroxy-cyclohexylmethanesulfonyl)-2-methyl-propionamide | 0.36 mmol, 0.21 g | C(C)(C)(C)[Si](OCC(C)(C)C1=NOC(=C1)NC(C(C)(C)S(=O)(=O)CC1CCC(CC1)O)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H48N2O6SSi
reactant | pyridinium chlorochromate | 0.72 mmol, 0.15 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 6 mL | C(C)OCC | C4H10O
product | N-{3-[2-(tert-butyl-diphenyl-silanyloxy)-1,1-dimethyl-ethyl]-isoxazol-5-yl}-2-methyl-2-(4-oxo-cyclohexylmethanesulfonyl)-propionamide | 0.12 g, Yield: 54% | C(C)(C)(C)[Si](OCC(C)(C)C1=NOC(=C1)NC(C(C)(S(=O)(=O)CC1CCC(CC1)=O)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H46N2O6SSi
